US06867204B2
8-Bromo-6-chloro-2,3-dihydro-benzo[1,4]oxazine used in this Example was prepared by first reacting 2-amino-6-bromo-4-chloro-phenol with chloroacetyl chloride to provide 8-bromo-6-chloro-4H-benzo[1,4]oxazin-3-one using the procedure reported by Combs et al.; J. Med. Chem.; 33; 380-386 1990. This benzoxazinone was then reduced to 8-bromo-6-chloro-2,3-dihydro-benzo[1,4]oxazine using borane in THF according to the procedure described in Tetrahedron; 53(26); 8853-8870 1997.

reactant | 8-Bromo-6-chloro-2,3-dihydro-benzo[1,4]oxazine | BrC1=CC(=CC=2NCCOC21)Cl | C8H7BrClNO
reactant | 2-amino-6-bromo-4-chloro-phenol | NC1=C(C(=CC(=C1)Cl)Br)O | C6H5BrClNO
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 8-bromo-6-chloro-4H-benzo[1,4]oxazin-3-one | BrC1=CC(=CC=2NC(COC21)=O)Cl | C8H5BrClNO2
